US08067445B2
Step 3: (5-Bromo-2-fluoro-phenyl)-acetonitrile
4-Bromo-2-bromomethyl-1-fluoro-benzene (1.2 g, 3.7 mmol) and sodium cyanide (2.0 g, 4.1 mmol) were combined in DMSO (15 mL) and stirred at 90° C. for 2 hours. Once no starting material was seen by analytical tlc, the mixture was worked-up with EtOAc and H2O to give the title compound.

reactant | 4-Bromo-2-bromomethyl-1-fluoro-benzene | 3.7 mmol, 1.2 g | BrC1=CC(=C(C=C1)F)CBr | C7H5Br2F
reactant | sodium cyanide | 4.1 mmol, 2.0 g | [C-]#N.[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | (5-Bromo-2-fluoro-phenyl)-acetonitrile | BrC=1C=CC(=C(C1)CC#N)F | C8H5BrFN
